US09255090B2
Synthesis of (8-Bromo-5-fluoro-3,4-dihydro-1H-isoquinolin-2-yl)-((1R,2R)-2-phenyl-cyclopropyl)-methanone (C19H17NOBrF, MW=373.05)
To a solution of (1R,2R)-2-phenyl-cyclopropanecarboxylic acid (389 mg, 2.4 mmol, 1.2 eq.) in DCM (10 mL), DIPEA (1.37 ml, 8 mmol, 4.0 eq.) and TBTU (771 mg, 2.4 mmol, 1.2 eq.) were added in sequence. The resulting solution was stirred at r.t. for 30 minutes. Then 8-bromo-5-fluoro-1,2,3,4-tetrahydro-isoquinoline hydrochloride (533 mg, 2.0 mmol, 1.0 eq.) was added and the resulting mixture was stirred at r.t. for 18 hours. The reaction mixture was poured in water (50 mL). The mixture was extracted with DCM (2×30 mL). The comb. org. phases were dried over MgSO4 and concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 30 fractions of 45 mL, Heptane to Heptane+50% AcOEt) to yield the title compound as a yellow oil.

reactant | (1R,2R)-2-phenyl-cyclopropanecarboxylic acid | 2.4 mmol, 389 mg, 1.2 eq. | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)O | C10H10O2
reactant | DIPEA | 8 mmol, 1.37 ml, 4.0 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 2.4 mmol, 771 mg, 1.2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 8-bromo-5-fluoro-1,2,3,4-tetrahydro-isoquinoline hydrochloride | 2.0 mmol, 533 mg, 1.0 eq. | Cl.BrC=1C=CC(=C2CCNCC12)F
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | (8-Bromo-5-fluoro-3,4-dihydro-1H-isoquinolin-2-yl)-((1R,2R)-2-phenyl-cyclopropyl)-methanone | BrC=1C=CC(=C2CCN(CC12)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1)F | C19H17BrFNO
